US08097759B2
N-(3,5-Dichlorophenyl)-2-hydroxy-5-iodobenzamide (Compound No. 149)
Using 5-iodosalicylic acid and 3,5-dichloroaniline as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 5-iodosalicylic acid | IC1=CC=C(C(C(=O)O)=C1)O | C7H5IO3
reactant | 3,5-dichloroaniline | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
product | N-(3,5-Dichlorophenyl)-2-hydroxy-5-iodobenzamide | Yield: 65.4% | ClC=1C=C(C=C(C1)Cl)NC(C1=C(C=CC(=C1)I)O)=O | C13H8Cl2INO2
